US04866077
4-(3-Pyridyl)-1,2,3-triazole (68)
In a glass-coated bomb tube 6.5 g (0.063 mol) of 3-pyridyl acetylene (T. Sakamoto et al., Synthesis (1983) 312) and 8.7 g (0.075 mol) of trimethylsilyl azide were mixed and heated to 150° C. for 20 h. After cooling the mixture was poured into water. A colorless solid, 68, formed, which was isolated by filtration and dried. Yield: 4.0 g (0.028 mol, 44%).

reactant | 3-pyridyl acetylene | 0.063 mol, 6.5 g | N1=CC(=CC=C1)C#C | C7H5N
reactant | trimethylsilyl azide | 0.075 mol, 8.7 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | water | O | H2O
product | 4-(3-Pyridyl)-1,2,3-triazole | N1=CC(=CC=C1)C=1N=NNC1 | C7H6N4
